US04954508
Preparation of 1-methyl-3-(1-methylethyl)-5(1H)-pyrazolamine
4-Methyl-3-oxo-pentanenitrile (39.58 g; 0,356 mol) dissolved in glacial acetic acid (400 ml) and methylhydrazine (18.05 g; 0.382 mol) is added thereto, at 15°-20° C.

reactant | 4-Methyl-3-oxo-pentanenitrile | 0,356 mol, 39.58 g | CC(C(CC#N)=O)C | C6H9NO
reactant | methylhydrazine | 0.382 mol, 18.05 g | CNN | CH6N2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-3-(1-methylethyl)-5(1H)-pyrazolamine | CN1N=C(C=C1N)C(C)C | C7H13N3
